US05994569
420 mg of (4aS,8aR)-5-((3E,5E)-(R)-7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)-4a-methyl-3,4,4a,7,8,8a-hexahydro-2H-naphthalen-1-one were reacted at RT with 0.389 ml of TMS-imidazole (2 equivalents) in 1.3 ml of CH2Cl2. After 20 hours the mixture was poured onto crushed ice, extracted with ether, washed with brine, dried over magnesium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=95/5) yielded 463 mg of (4aS,8aR)-5-[(3E,5E)-(R)-(1,7-dimethyl-7-trimethylsilanyloxy-octa-3,5-dienyl)]-4a-methyl-3,4,4a,7,8,8a-hexahydro-2H-naphthalen-1-one as colourless oil.

reactant | (4aS,8aR)-5-((3E,5E)-(R)-7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)-4a-methyl-3,4,4a,7,8,8a-hexahydro-2H-naphthalen-1-one | 420 mg | OC(/C=C/C=C/C[C@@H](C)C=1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C | C21H32O2
reactant | TMS-imidazole | 0.389 ml, 2 equivalents | [Si](C)(C)(C)C=1NC=CN1 | C6H12N2Si
solvent | CH2Cl2 | 1.3 ml | C(Cl)Cl | CH2Cl2
product | (4aS,8aR)-5-[(3E,5E)-(R)-(1,7-dimethyl-7-trimethylsilanyloxy-octa-3,5-dienyl)]-4a-methyl-3,4,4a,7,8,8a-hexahydro-2H-naphthalen-1-one | 463 mg | C[C@H](C\C=C\C=C\C(C)(O[Si](C)(C)C)C)C=1[C@]2(CCCC([C@@H]2CCC1)=O)C | C24H40O2Si
